Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dysarthria, R facial droop, R hand weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old woman with history of end-stage ALS 
(wheelchair bound, minimal movement of arms and legs, completely 
dependent on others for all ADLs) and otherwise rare follow up 
with physicians who presents with acute onset of dysarthria and 
right facial droop. History provided by patient and husband.

Ms. ___ reports she was in her usual state of health 
until 11am this morning. She had begun her work day, which she 
still is active as a diabetes ___. She noticed that 
while talking to a patient, her speech became slurred acutely. 
The patient who she was speaking with noted that she had right 
facial droop. She then went to try to grab a pen with her right 
hand, and could not do so. Per her husband, however, the only 
new deficit is her dysarthria- he believes her right face has 
been asymmetric in the past, and she has been unable to grasp 
objects with her right hand for the last few months. 

With respect to her neurologic baseline, she was diagnosed with 
ALS in ___ and was previously followed by Dr. ___ 
___ specialist at ___, who has since transferred to 
___). She last saw him in ___, at which point she was 
offered Riluzole but did not follow up to take it. She reports 
she has had minimal follow up since then. She has not seen a 
neurologist since ___, and has seen a PCP once over the last 
___ years. She has been wheelchair bound for years, but has had 
a significant decline in her function over the last 2 months 
(per her husband). She previously was able to stand with 
assistance to use the bathroom, but now has had to be lifted to 
the toilet. She is completely dependent on others for all 
activities of daily living. Her husband is her primary care 
taker, who provides ___ care unless when he is out of town, at 
which point they hire a caretaker. She has minimal movement of 
bilateral IPs and right hand, and head drop at baseline. Until 2 
months ago, she was able to use her right hand to type (albeit 
very slowly), but has since been unable to do so. She believes 
she was able to pick up objects with her right hand until this 
morning, but husband insists that this has been her baseline for 
the last 2 months. She also was able to brush her teeth with her 
right hand until the last 2 months. 

She otherwise reports she has been healthy and is not aware of 
any other medical issues. Denies any new medications including 
OTC supplements. Denies changes to sleep. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech. Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. 

On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
ALS
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ON ADMISSION
============
Vitals: T 97.4F, HR 66, BP 145/74, RR 14, O2 100% RA
Counts up to 15 in one breath, confirmed on 2 attempts 
General: Awake, cooperative, NAD. Appears comfortable. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Head drop present (baseline). Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air. Appears
comfortable. No tachypnea.  
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.
Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and 
situation. Able to relate history without difficulty. Attentive, 
able to name ___ backward without difficulty. Language is fluent 
with intact repetition and comprehension. Normal prosody. There 
were no paraphasic errors. Pt was able to name both high and low 
frequency objects.  Able to read without difficulty. Speech was 
moderately dysarthric with all sounds (lingual, guttural, 
labial). Able to follow both midline and appendicular commands. 
The pt had good knowledge of current events. There was no 
evidence of apraxia or neglect.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: Right facial droop, delayed activation on R side. Normal 
eye
closure. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Bilateral arm and hand contractures. Significantly
decreased bulk throughout, profound muscle wasting. +Diffuse
fasciculations. No adventitious movements, such as tremor, 
noted.
No asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  0    0   0   0   0    0   0  2     0     0   0     0      0
R  0    0   0   0   0    ___     0     0   0     0      0
Neck flexor ___, neck extensor ___
-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  *  *   *    1    0
R  *  *    *   1    0
* unable to assess due to contractures 
Plantar response was flexor bilaterally.
-Coordination: Unable to assess 
-Gait: Unable to assess 

Discharge Physical Exam:
-Mental Status: Alert, oriented x 3. Speaks quietly but 
answering
questions. Able to relate history without difficulty. Language 
is
fluent with intact repetition and comprehension. She can hold a
lengthy conversation without getting out of breath or fatiguing. 

-Cranial Nerves:
PERRL 3 to 2mm and brisk b/l. EOMI without nystagmus. R NLFF.
Hearing
grossly intact to voice. Palate elevates symmetrically. Tongue
midline, without obvious fasciculations
-Motor: Diffuse atrophy throughout upper and lower extremities,
with fasciculations noted in intrinsic hand muscles. Some wrist
extension right side.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  0    0   2   0   1    0   0  2     0     0   0     0      0
R  0    0   0   0   1    ___     0     0   0     0      0
Neck flexor 4+/5, neck extensor 4+/5
-Sensory: No deficits to light touch. No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2, brisk   2
R  2  2    2    2, brisk   2
Plantar response was up on the right, mute on the left.
-Coordination: Unable to test.
-Gait: Unable to test.

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:42AM BLOOD WBC-8.1 RBC-4.63 Hgb-13.9 Hct-43.2 MCV-93 
MCH-30.0 MCHC-32.2 RDW-13.7 RDWSD-46.7* Plt ___
___ 07:10PM BLOOD Neuts-77.4* Lymphs-15.0* Monos-5.2 
Eos-1.5 Baso-0.6 Im ___ AbsNeut-5.16 AbsLymp-1.00* 
AbsMono-0.35 AbsEos-0.10 AbsBaso-0.04
___ 11:42AM BLOOD ___ PTT-28.2 ___
___ 11:42AM BLOOD UreaN-13
___ 11:43AM BLOOD Creat-0.3*
___ 11:42AM BLOOD ALT-9 AST-29 AlkPhos-57 TotBili-0.6
___ 11:42AM BLOOD Lipase-41
___ 07:10PM BLOOD CK-MB-7 cTropnT-<0.01
___ 07:10PM BLOOD TotProt-7.1 Albumin-4.0 Globuln-3.1 
Cholest-197
___ 01:15PM URINE Color-Straw Appear-Clear Sp ___
___ 01:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

PERTINENT LABS
==============
___ 07:10PM BLOOD %HbA1c-4.9 eAG-94
___ 07:10PM BLOOD Triglyc-51 HDL-89 CHOL/HD-2.2 LDLcalc-98
___ 07:10PM BLOOD TSH-0.71
___ 07:10PM BLOOD CRP-3.3

DISCHARGE LABS
==============

IMAGING
=======
Noncontrast head CT: 
1.8 x 1.1 cm intraparenchymal hemorrhage in the left basal 
ganglia with minimal mass effect on the left lateral ventricles. 
No midline shift. 

CTA Head and neck: 
No acute vascular abnormality of the circle ___ and its 
principal 
intracranial branches. Known stenosis by NASCET criteria of the 
internal carotid arteries. No vascular abnormalities of 
bilateral vertebral arteries. 
Other: Multiple nodules are noted in the left thyroid gland, the 
largest measuring 1.0 cm for which no follow-up is needed. 
___ 04:35AM BLOOD WBC-5.0 RBC-3.79* Hgb-11.7 Hct-36.7 
MCV-97 MCH-30.9 MCHC-31.9* RDW-14.5 RDWSD-50.6* Plt ___
___ 04:35AM BLOOD WBC-5.0 RBC-3.79* Hgb-11.7 Hct-36.7 
MCV-97 MCH-30.9 MCHC-31.9* RDW-14.5 RDWSD-50.6* Plt ___
___ 04:35AM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-78 UreaN-19 Creat-0.2* Na-145 
K-4.0 Cl-108 HCO3-24 AnGap-13
___ 04:35AM BLOOD WBC-5.0 RBC-3.79* Hgb-11.7 Hct-36.7 
MCV-97 MCH-30.9 MCHC-31.9* RDW-14.5 RDWSD-50.6* Plt ___ year old woman with long-standing history of likely ALS, not 
on any medications since ___, who presents with acute onset R 
facial droop, R hand weakness, and dysarthria, found to have L 
IPH. She was started on a cardene drip on admission for SBP 
control. The cardene drip was only needed for a short amount of 
time, and it was titrated off the night of her admission. Since 
then, she has not needed any blood pressure medications to 
control her blood pressure, as she has been spontaneously <160. 
She was set up with a hospital bed, commode, and hoyer lift so 
she could return home to live with her daughter. She did not 
want to follow up in ___ clinic. During her hospital course, she 
regained some flexion of her right fingers, along with some 
right wrist extension. She remained stable and amenable to 
discharge to her daughter's home on ___. 

# Left putamenal IPH, 3.3cc in volume on intial CT: Likely 
hypertensive given location, but DDx also includes cavernous 
malformation, etc. Bleed stable on repeat CT scan obtained 6 
hours after onset of symptoms. Initially on Nicardipine gtt in 
ED, d/c'd on arrival as BP well controlled. Subcutaneous heparin 
was started 24 hrs after arrival. She passed a bedside swallow 
evaluation.

# History of ALS: Not on medication since ___

#Concern for respiratory muscle weakness, based on neck 
flexion/extension weakness. However, her respiratory status 
remained stable. 

#Hypertension: blood pressure remained <160 without any 
antihypertensives. We recommend that she follow up with a PCP 
who can follow her blood pressures regularly. 

AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (X) Yes - () No
2. DVT Prophylaxis administered? (X) Yes - () No
3. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (X) Yes - () No

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
No discharge medications.
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left basal ganglia hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear ___ were hospitalized due to symptoms of difficulty speaking and 
right facial droop, resulting from an acute hemorrhagic stroke, 
a condition where a blood vessel in the brain bleeds. The brain 
is the part of your body that controls and directs all the other 
parts of your body, so damage to the brain from being deprived 
of its blood supply can result in a variety of symptoms.
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Uncontrolled high blood pressure

We are changing your medications as follows:
Your blood pressure was monitored, and no additional blood 
pressure medications were needed. 
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

It was a pleasure taking care of ___!
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___